US04208202
(c) 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethyl-phenyl)-piperidin-2-one.
31 g (0.11 mol) of trifluoromethanesulphonic acid anhydride are added dropwise in the course of 40 minutes, at -40°, to a solution of 21.8 g (0.1 mol) of 1-(3'-amino-4',6'-dimethyl-phenyl)-piperidin-2-one and 12 g (0.11 mol) of triethylamine in 400 ml of chloroform. The temperature is allowed to rise to room temperature and the mixture is heated briefly to the reflux temperature. The solution is extracted with 500 ml of 1 N KOH. The aqueous extract is filtered and acidified with concentrated hydrochloric acid. The product thus precipitated is filtered off and washed with water. It is dried in a desiccator at 70°. Yield: 18.0 g (51%); melting point 260°-266°.

reactant | trifluoromethanesulphonic acid anhydride | 0.11 mol, 31 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(3'-amino-4',6'-dimethyl-phenyl)-piperidin-2-one | 0.1 mol, 21.8 g | NC=1C=C(C(=CC1C)C)N1C(CCCC1)=O | C13H18N2O
reactant | triethylamine | 0.11 mol, 12 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethyl-phenyl)-piperidin-2-one | FC(S(=O)(=O)NC=1C=C(C(=CC1C)C)N1C(CCCC1)=O)(F)F | C14H17F3N2O3S
